**.subckt test_Ideal_Opamp
x1 Vp Vout Vout Ideal_opamp
**** begin user architecture code


.param mc_mm_switch=0
.param mc_pr_switch=0
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8_lvt__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_03v3_nvt__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_05v0_nvt__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__esd_nfet_01v8__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_lvt__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_hvt__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__esd_pfet_g5v0d10v5__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d10v5__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d16v0__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d10v5__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d16v0__tt_discrete.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__esd_nfet_g5v0d10v5__tt.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_20v0__tt_discrete.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_20v0__tt_discrete.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/corners/tt/nonfet.spice
* Mismatch parameters
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_01v8_lvt__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_lvt__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_01v8_hvt__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_g5v0d10v5__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__pfet_g5v0d10v5__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_05v0_nvt__mismatch.corner.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.ref/sky130_fd_pr/spice/sky130_fd_pr__nfet_03v3_nvt__mismatch.corner.spice
* Resistor/Capacitor
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
* Special cells
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice
* All models
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/all.spice
* Corner
.include ~/mabrains/Analog_blocks/models/sky130A/libs.tech/ngspice/corners/tt/rf.spice





**************************************
*DC Analysis
**************************************
**.subckt test_bsource PLUS MINUS OUT
*.ipin PLUS
*.ipin MINUS
*.opin OUT
.param VDD=3.6
.param GAIN={1000/VDD*2}
Vpos Vp 0 0
*Vneg Vn 0 {VDD/2}
*
Vdd VDD 0 DC 1.8
Vss VSS 0 DC 0
.option gmin=1e-12
.control
*save all
*dc Vp 0 3 0.001
*plot Vout
*write test_bsource.raw
*.endc
**************************************
*Transient analysis
**************************************
.control
alter @Vpos[Sin] [ 1 100m 1Meg ]
tran 0.05u 5u
plot Vp Vout
.endc
**************************************
.control
alter @Vpos[Sin] [ 1 5 1Meg ]
tran 0.05u 5u
plot Vp Vout
.endc
**************************************


**** end user architecture code
**.ends

* expanding   symbol:
*+  /home/eslam/mabrains/Analog_blocks/Analog_Blocks/OTA/Schematic/Ideal_opamp/Ideal_opamp.sym # of pins=3
* sym_path:
*+ /home/eslam/mabrains/Analog_blocks/Analog_Blocks/OTA/Schematic/Ideal_opamp/Ideal_opamp.sym
* sch_path:
*+ /home/eslam/mabrains/Analog_blocks/Analog_Blocks/OTA/Schematic/Ideal_opamp/Ideal_opamp.sch
.subckt Ideal_opamp  Vp Out Vn
*.ipin Vp
*.ipin Vn
*.opin Out
V1 Vp PLUS_I 0
V2 Vn MINUS_I 0
B1 Out 0 V = 'VDD/2*(1+tanh(GAIN*(V(PLUS_I)-V(MINUS_I))))' 
.ends

** flattened .save nodes
.end
